US07384963B2
N-[3-(Dimethylaminomethyl)indol-6-yl]-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and 6amino-3(dimethylaminomethyl)indole using method I. LCMS; retention time 3.16 min, [M-H·]463.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | 6amino-3(dimethylaminomethyl)indole | NC1=CC=C2C(=CNC2=C1)CN(C)C | C11H15N3
product | N-[3-(Dimethylaminomethyl)indol-6-yl]-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | CN(C)CC1=CNC2=CC(=CC=C12)NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C=1OC(=NN1)C)C | C28H27N5O2
